US07338959B2
N2-Benzyl-1-ethyl-N5-[2-(4-methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-N5-methyl-1H-benzoimidazole-2,5-diamine hydrochloride
The title compound was prepared following the procedure of example two with N2-Benzyl-N5-(2-chloro-pyrimidin-4-yl)-1-ethyl-N5-methyl-1H-benzoimidazole-2,5-diamine (98 mg, 0.25 mmol) and 4-[(methylsulfonyl)methyl]aniline (46 mg, 0.25 mmol) as a white solid (65 mg, 45%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.53 (s, 1H), 7.75 (m, 3H), 7.19-7.40 (M, 9H), 7.10 (s, 1H), 6.87 (m, 1H), 5.66 (m, 1H), 4.60 (m, 2H), 4.32 (s, 2H), 4.11 (m, 2H), 6.41 (s, 3H), 2.83 (s, 3H), 1.24 (M, 3H).

reactant | N2-Benzyl-N5-(2-chloro-pyrimidin-4-yl)-1-ethyl-N5-methyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 98 mg | C(C1=CC=CC=C1)NC1=NC2=C(N1CC)C=CC(=C2)N(C)C2=NC(=NC=C2)Cl | C21H21ClN6
reactant | 4-[(methylsulfonyl)methyl]aniline | 0.25 mmol, 46 mg | CS(=O)(=O)CC1=CC=C(N)C=C1 | C8H11NO2S
product | N2-Benzyl-1-ethyl-N5-[2-(4-methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-N5-methyl-1H-benzoimidazole-2,5-diamine hydrochloride | Cl.C(C1=CC=CC=C1)NC1=NC2=C(N1CC)C=CC(=C2)N(C)C2=NC(=NC=C2)NC2=CC=C(C=C2)CS(=O)(=O)C | InChI=1S/C29H31N7O2S.ClH/c1-4-36-26-15-14-24(18-25(26)33-29(36)31-19-21-8-6-5-7-9-21)35(2)27-16-17-30-28(34-27)32-23-12-10-22(11-13-23)20-39(3,37)38;/h5-18H,4,19-20H2,1-3H3,(H,31,33)(H,30,32,34);1H
